Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
worsening pneumonia
 
Major Surgical or Invasive Procedure:
None. 

 
History of Present Illness:
___ h/o asthma, recurrent pneumonias, who is referred in by her
PCP for worsening PNA. 

The patient had pneumonia in the fall and presented to ___ 
___
with worsening cough and SOB. CXR then showed nearly complete
resolution of a prior RML pneumonia. She was treated with a
course of Levaquin and a prednisone taper. She then came in to
see her PCP ___ ___ with worsening cough, fever to 101,
dehydration, and a CXR showing worsening of her RML pneumonia 
and
also a new RLL pneumonia. She was told to present to the ED for
IV antibiotics.

Patient was afebrile to 102.6 and tachycardic to 100s in the ED.
Satting well on RA. She was given IV ceftriaxone and 
azithromycin
and admitted to medicine for further management.

Upon arrival to the floor, patient interviewed by the ___
team.  She endorses the above history.  She states that she
completed her course of Levaquin and prednisone last week.  
Since
then, she has been continuing to have cough productive of green
sputum, fevers, chills, night sweats.  She has been using her
albuterol rescue inhaler up to 4 times per day.

She states she feels better than when she presented to the ED
after receiving her first dose of IV antibiotics.  She endorses
decreased appetite but has been able to eat soup.  She denies
dysuria.  She has been having normal bowel movements.

She states that she is up-to-date with cancer screening.  She
denies a history of bleeding and states that her stools have 
been
a normal color.

 
Past Medical History:
asthma
recurrent pneumonias
 
Social History:
___
Family History:
Father had an MI.  Mother is ___ and in good health.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: ___ 2211 Temp: 97.8 PO BP: 117/71 HR: 91 RR: 18 O2
sat: 97% O2 delivery: Ra 
GENERAL: Alert and interactive. In no acute distress.
HEENT: Normocephalic and atraumatic. Sclera anicteric and 
without
injection. 
CARDIAC: Regular rhythm, mildly tachycardic. Audible S1 and S2.
No murmurs/rubs/gallops.
LUNGS: Breathing comfortably on room air.  Scattered wheezes. 
Crackles at right lung base.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: Warm and well perfused.  No lower extremity edema.
NEUROLOGIC: AOx3. 

DISCHARGE PHYSICAL EXAM:
========================
VITALS: 24 HR Data (last updated ___ @ 2325)
    Temp: 98 (Tm 100.2), BP: 114/75 (114-147/75-86), HR: 69
(69-102), RR: 18 (___), O2 sat: 96% (93-97)  
GENERAL: NAD. 
CARDIAC: RRR, nml s1 s2, no mrg. 
LUNGS: On RA. Diminished breath sounds R side up to mid-lung 
with
fine crackles. Faint expiratory wheeze most notable at the bases
ABDOMEN: Soft, nd, nt. 
EXTREMITIES: Warm, no ___. 
NEURO: AOx4. No focal neurologic deficits. 

 
Pertinent Results:
ADMISSION LABS
___ 09:24AM BLOOD WBC-11.1* RBC-3.33* Hgb-9.7* Hct-29.4* 
MCV-88 MCH-29.1 MCHC-33.0 RDW-12.6 RDWSD-40.7 Plt ___
___ 09:24AM BLOOD Neuts-78.1* Lymphs-14.0* Monos-6.8 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-8.68* AbsLymp-1.56 
AbsMono-0.76 AbsEos-0.03* AbsBaso-0.03
___ 09:24AM BLOOD Glucose-91 UreaN-13 Creat-0.7 Na-137 
K-5.5* Cl-105 HCO3-20* AnGap-12
___ 07:45AM BLOOD Calcium-8.7 Phos-3.3 Mg-1.9 Iron-20*
___ 07:45AM BLOOD calTIBC-191* VitB12-236* Ferritn-377* 
TRF-147*

DISCHARGE LABS
___ 07:25AM BLOOD WBC-4.2 RBC-3.53* Hgb-10.0* Hct-32.0* 
MCV-91 MCH-28.3 MCHC-31.3* RDW-12.4 RDWSD-40.8 Plt ___
___ 07:45AM BLOOD Calcium-9.0 Phos-3.2 Mg-1.9
___ 07:25AM BLOOD Glucose-89 UreaN-12 Creat-0.6 Na-137 
K-4.6 Cl-98 HCO3-25 AnGap-14
___ 09:27AM BLOOD Lactate-0.9 K-4.7
___ 07:45AM BLOOD IgG-1236 IgA-369 IgM-98
___ 05:35PM BLOOD IgA-373

PENDING LABS AT DISCHARGE:
___ 05:35PM BLOOD IGE-PND
___ 05:35PM BLOOD IGG SUBCLASSES 1,2,3,4-PND
___ 05:35PM BLOOD B-GLUCAN-PND
___ 05:35PM BLOOD ASPERGILLUS GALACTOMANNAN ANTIGEN-PND

MICRODATA
LEGIONELLA, STREP PNEUMO NEGATIVE. 
FLU NEGATIVE.
MRSA NEGATIVE.
___ BLOOD CULTURES NGTD. 

IMAGING
___ CXR: Patchy consolidation in the right mid to lower lung 
worrisome for pneumonia with a small right pleural effusion.  No 
prior to evaluate for interval change.  Follow-up will be 
necessary to document resolution. 

___ CHEST CT W/O CONTRAST:
1. Multiple areas of predominately ground-glass opacification, 
some which 
demonstrate a solid component, as well as areas of subpleural 
nodular 
consolidations are worse in the bilateral lower lobes, right 
greater than 
left.  This is associated with bronchial wall thickening.  The 
leading 
diagnosis is an infectious process such as multifocal bacterial 
pneumonia.  
Repeat chest radiograph in ___ weeks is recommended if clinical 
symptoms 
improve.  If clinical symptoms persist, additional differential 
considerations  include eosinophilic pneumonia, hypersensitivity 
pneumonia, organizing  pneumonia, or Pseudomonas pneumonia.  If 
prior imaging is available for comparison an addendum may be 
performed. 
2. Left-sided solid pulmonary nodules measure up to 5 mm and are 
likely 
related to the above described process. 
3. Enlarged mediastinal lymph nodes are likely reactive. 

___ VIDEO SWALLOW STUDY:  
Normal oropharyngeal swallowing videofluoroscopy. 

 
Brief Hospital Course:
Ms. ___ is a ___ woman with a history of asthma and 
recurrent pneumonias who was recently treated for a pneumonia 
with levofloxacin who presents with fever and cough and a chest 
x-ray concerning for refractory/worsening RML pneumonia > 
progressing to RLL pneumonia. 

ACUTE ISSUES:
=============
#Pneumonia
#Parapneumonic effusion
Patient has a history of recurrent pneumonias of unclear 
etiology. She was recently treated for a pneumonia with 
levofloxacin and now presents with a refractory versus recurrent 
pneumonia. Legionella, strep Ag, MRSA were all negative, and 
sputum Cx was invalid. Chest CT showed small R pleural effusion 
which was not tapped due to small amt. Initially started on IV 
Vanc/cefepime/azithromycin > narrowed to IV CTX/azithromycin 
with a plan to continue azithromycin x5 days (___) and 
cefpodoxime x14 ___. She was afebrile during her 
hospitalization and leukocytosis (initially 11.1 at admission) 
downtrended to normal limits. Further work-up for etiology of 
recurrent PNAs included S/S video swallow study, which showed no 
e/o silent aspiration. Pulmonology was consulted and recommended 
checking serum immunoglobulins (and repeat as outpatient). 
b-d-glucan, galactomannan, sputum AFB was still pending at the 
time of discharge. Recommended repeat CT scan in ___ weeks and 
Pulm f/u in 8 weeks. Pt was adamant about leaving over the 
weekend, and we were unable to coordinate Pulm follow-up prior 
to discharge.

#Anemia, normocytic
Hgb 9.7 on admission. Most recent baseline in Atrius records 
12.8 on ___. Cologuard ___ negative. Patient denies 
bleeding or dark stools. RBC morphology wnl. Vit B12 slightly 
low 236. Mild Fe deficiency 20, elevated ferritin 377, c/w 
anemia of chronic disease. 

#Leukocytosis
Presented with WBC 11.1, resolved after admission. 

================
CHRONIC ISSUES:
================
#Asthma
Continued home Fluticasone Propionate 110mcg 2 PUFF IH BID, 
Albuterol Inhaler 2 PUFF IH Q6H:PRN 

CORE MEASURES
=============
#CODE: Full code, confirmed
#CONTACT: ___ (husband) ___

TRANSITIONAL ISSUES
===================
[]Recheck CBC as outpatient
[]Repeat testing of B12 and pursue further workup if low 
[]Prescribed Azithromycin for a total of 5 days, cefpodoxime 
(total durataion 14 days given recurrent PNA). 
[]Consider repeat CXR after resolution of symptoms and check 
serum immunoglobulins (IgG with subclasses, IgE, IgA once 
symptoms resolve).
[]Follow up b-d-glucan, galactomannan, sputum AFB, pending at 
the time of discharge. 
[]Per Pulmonology, please order repeat CT scan in ___ weeks 
(___).
[]Please refer pt for Pulmology follow-up 8 weeks after 
discharge. 
[]GERD lifestyle modifications, as Pulm suspected silent 
aspiration. 

>30 minutes were spent in discharge planning and coordination of 
care on the day of discharge

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone Propionate 110mcg 2 PUFF IH BID 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath, 
wheezing 

 
Discharge Medications:
1.  Azithromycin 250 mg PO DAILY Duration: 1 Dose 
You will need to take one last dose on ___.  
RX *azithromycin 250 mg one tablet(s) by mouth daily Disp #*1 
Tablet Refills:*0 
2.  Cefpodoxime Proxetil 200 mg PO Q12H pneumonia 
Last day of antibiotics on ___ unless primary care doctor 
says otherwise. 
RX *cefpodoxime 200 mg one tablet(s) by mouth twice daily Disp 
#*21 Tablet Refills:*0 
3.  Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath, 
wheezing  
4.  Fluticasone Propionate 110mcg 2 PUFF IH BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Pneumonia, recurrent
#Parapneumonic effusion
#Anemia
#Leukocytosis

Secondary Diagnoses:
#Asthma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

WHY WAS I ADMITTED?
--------------------
-You were admitted for recurrent pneumonia (lung infection) that 
was getting worse. 

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
-While you were admitted, you received IV antibiotics. 
-We had our lung doctors ___ and obtain tests to figure out 
why you keep getting sick with recurrent pneumonias. 

WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL?
-You should keep all of your appointments with your doctors. 
-___ take all of your medications as directed. 

Very Sincerely,
___ Team 

 
Followup Instructions:
___